US05563163
Reaction of 4-trifluoromethylbenzoic acid with thionyl chloride affords 4-trifluoromethylbenzoyl chloride, which, on reaction with diethylamine, affords 4-trifluoro-methyl-N,N-diethylbenzamide. Following a procedure similar to that described in Preparation 5, reaction of the latter with s-butyl lithium and reaction of the resulting lithium salt with sulfur dioxide followed by sodium hydroxylamine-O-sulfonate affords 4-trifluoromethyl-2-aminosulfonyl-N,N-diethylbenzamide, which on heating in glacial acetic acid, affords 6-trifluoro-methylsaccharin.

reactant | 4-trifluoromethylbenzoic acid | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-trifluoromethylbenzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
